US03965181
This preparation illustrates methods of preparing cyclic amine derivatives of formula A. In this preparation 1 gram of N-β-hydroxyethyl-piperazine is added to a solution containing 0.31 g. of 5-(3-methanesulfonylprop-1-ynyl)-5H-dibenzo[a,d]cycloheptene, according to Example 3, in 20 ml. of dichloromethane at 0°C. The resulting mixture is monitored by thin-layer chromatographic analysis and allowed to stand at room temperature until conversion of the sulfonate ester is essentially complete. The mixture is then worked up and purified according to the procedure described in Example 4, yielding 5-[3-(N'-β-hydroxyethyl-1-piperazinyl)prop-1-ynyl]-5H-dibenzo[a,d]cycloheptene.

reactant | N-β-hydroxyethyl-piperazine | 1 gram | OCCN1CCNCC1 | C6H14N2O
reactant | 5-(3-methanesulfonylprop-1-ynyl)-5H-dibenzo[a,d]cycloheptene | CS(=O)(=O)CC#CC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C19H16O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[3-(N'-β-hydroxyethyl-1-piperazinyl)prop-1-ynyl]-5H-dibenzo[a,d]cycloheptene | OCCN1CCN(CC1)CC#CC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C24H26N2O
